US04520193
A 1.6M solution of n-butyllithium in hexane (5.37 cc) is added, in the course of 2 minutes, to a solution of 2,2,6,6-tetramethylpiperidine (1.28 g) in tetrahydrofuran (10 cc) at 20° C. The mixture is stirred for 1 hour at 20° C . and then cooled to -70° C. A solution of 3-acetonyl-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (4.5 g) in tetrahydrofuran (10 cc) is then added dropwise in the courese of 20 minutes and the solution is then stirred for 30 minutes at -70° C. Hexamethylphosphorotriamide (7 cc) is then added in the course of 3 minutes, followed by trifluoromethanesulphonic anhydride (4.34 cc) in the course of 3 minutes. The mixture is stirred for a further 40 minutes at -70° C. and then left to return to 0° C. in the courese of 40 minutes. It is then poured into a stirred mixture of 0.25N hydrochloric acid (125 cc) and ethyl acetate (50 cc). The organic phase is decanted, washed with a saturated aqueous solution of sodium bicarbonate (50 cc), dried over sodium sulphate and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. The residue is chromatographed on a column of Merck silica gel (0.06-0.20) (90 g) (diameter of the column: 2.4 cm; height: 45 cm). Elution is carried out with a 20/80 (by volume) ethyl acetate/cyclohexane mixture (1 liter) and 100 cc fractions are collected. Fractions 2 to 7 are concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. This yields the Z form of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-(2-trifluoromethanesulphonyloxyprop-1-en-1-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (2 g) in the form of a hard yellow foam.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 1.28 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 3-acetonyl-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 4.5 g | C(C(=O)C)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30N2O6S
reactant | trifluoromethanesulphonic anhydride | 4.34 cc | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 0.25N, 125 cc | Cl | ClH
solvent | hexane | 5.37 cc | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 cc | C(C)(=O)OCC | C4H8O2
solvent | Hexamethylphosphorotriamide | 7 cc | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-(2-trifluoromethanesulphonyloxyprop-1-en-1-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=C(C)OS(=O)(=O)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C29H29F3N2O8S2
